US07863446B2
Synthesis of 4,5-diphenyl-6-(4-pyridin-2-yl-piperazin-1-yl)-2-(trifluoro methyl)pyrimidine
To a solution of 4-chloro-5,6-diphenyl-2-(trifluoromethyl)pyrimidine (0.5 g, 1.49 mmol, prepared according to the procedure described in PCT/IB03/02879) in dimethylformamide (5 ml) was added 1-pyridin-2-yl piperazine (0.107 g, 0.66 mmol) and anhydrous potassium carbonate (0.2 g) under stirring at 28° C. The reaction mixture was stirred for 4 hours and when TLC conformed the completion, it was poured onto ice. The solid thus obtained was filtered and washed with water (20 ml). The above solid was then dissolved in dichloromethane (50 ml) and dried over anhydrous sodium sulphate. Evaporation of the solvent afforded the title compound (0.48 g, yield 69.66%, purity by HPLC 99.8%). m.p. 165-167° C. 1H-NMR (CDCl3) δ: 3.43 (s, 8H), 6.58-6.64 (m, 2H), 7.14-7.21 (m, 7H), 7.26-7.29 (m, 3H), 7.45-7.49 (t, 1H), 8.14-8.15 (d, 1H). IR cm−1 (KBr): 3436, 2839, 1591, and 1557. MS m/z: 462.1 (M++1).

reactant | 4-chloro-5,6-diphenyl-2-(trifluoromethyl)pyrimidine | ClC1=NC(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C(F)(F)F | C17H10ClF3N2
reactant | 1-pyridin-2-yl piperazine | 0.66 mmol, 0.107 g | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | potassium carbonate | 0.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4,5-diphenyl-6-(4-pyridin-2-yl-piperazin-1-yl)-2-(trifluoro methyl)pyrimidine | 0.48 g, yield 69.66% | C1(=CC=CC=C1)C1=NC(=NC(=C1C1=CC=CC=C1)N1CCN(CC1)C1=NC=CC=C1)C(F)(F)F | C26H22F3N5
